US07838674B2
3-(2-fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaboro-lan-2-yl)-pyridine
3-Bromo-5-(2-fluoro-phenyl)-pyridine (221 mg; 0.88 mmol), bis(pinacolato)diboron (Frontier Scientific Catalog D6878) (269 mg; 1.05 mmol), Pd(PPh3)2Cl2 (20 mg; 0.025 mmol) and KOAc (260 mg; 2.64 mmol) are heated to 160° C. in DMF (6 ml) under argon for 20 minutes. The dark reaction mixture is evaporated to dryness, taken up in TBME, filtered and evaporated. The residue is dissolved in diethyl ether, diluted with hexanes, diethyl ether evaporated, filtered and evaporated to yield the title compound as brownish semi-crystalline material used in Example 135 without further purification

reactant | 3-Bromo-5-(2-fluoro-phenyl)-pyridine | 0.88 mmol, 221 mg | BrC=1C=NC=C(C1)C1=C(C=CC=C1)F | C11H7BrFN
reactant | bis(pinacolato)diboron | 1.05 mmol, 269 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 2.64 mmol, 260 mg | CC(=O)[O-].[K+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.025 mmol, 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2-fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaboro-lan-2-yl)-pyridine | FC1=C(C=CC=C1)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C17H19BFNO2
